US05750531
Step 2: 6-Methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine
A mixture solution of 6-methyl-2-chloro-4-hydroxypyrimidine(6 g, 37.5 mmol) prepared in the above Step 1, 1-methyl-1,2,3,4-tetrahydroisoquinoline(11.6 g, 78.8 mmol) and N,N-dimethylformamide(30 ml) was stirred at 120 for 2 hours and cooled to give a solid. The resulting solid was dissolved in a mixture solution of dichloromethane and methanol and the undissolved materials were filtered off. The filtrate residue was washed many times with water, dried over anhydrous sodium sulfate, concentrated under reduced pressure to give 7.1 g of titled compound. (Yield: 74.1%)

reactant | 6-methyl-2-chloro-4-hydroxypyrimidine | 37.5 mmol, 6 g | CC1=CC(=NC(=N1)Cl)O | C5H5ClN2O
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 78.8 mmol, 11.6 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 6-Methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine | 7.1 g, Yield: 74.1% | CC1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)O | C15H17N3O
